US06680313B2
The procedure of Example 1a) was repeated, except that 424 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 658 mg of 7-benzylthio-2-(tri-n-butylstannyl) imidazo[5,1-b]thiazole were used as the starting compounds. Thus, 459 mg of 4-nitrobenzyl (1S,5R,6S)-2-(7-benzylthioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate was prepared.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 424 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 7-benzylthio-2-(tri-n-butylstannyl) imidazo[5,1-b]thiazole | 658 mg | C(C1=CC=CC=C1)SC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
product | 4-nitrobenzyl (1S,5R,6S)-2-(7-benzylthioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 459 mg | C(C1=CC=CC=C1)SC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C29H26N4O6S2
